US07678917B2
In analogy to example 24B 5-chloro-thiophene-2-carboxylic acid {(1S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-oxo-cyclopentyl}-amide was reacted with methylamine (using a saturated solution in THF) to give 5-chloro-thiophene-2-carboxylic acid {(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-methylamino-cyclopentyl}-amide. Crystalline white solid. MS 489.3 ([M+H]+).

reactant | 5-chloro-thiophene-2-carboxylic acid {(1S,4R)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-oxo-cyclopentyl}-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)[C@H]1CC([C@H](C1)NC(=O)C=1SC(=CC1)Cl)=O | C22H17ClFN3O4S
reactant | methylamine | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 5-chloro-thiophene-2-carboxylic acid {(S)-4-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-2-methylamino-cyclopentyl}-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1CC([C@H](C1)NC(=O)C=1SC(=CC1)Cl)NC | C23H22ClFN4O3S
